US08957203B2
Preparation of 1-chloro-N-ethyl-6-methoxy-N-methylisoquinolin-3-amine
Hunig's base (0.235 mL, 1.347 mmol) was added to a solution of 1-chloro-6-methoxy-N-methylisoquinolin-3-amine (150 mg, 0.674 mmol) and acetaldehyde (0.042 mL, 0.741 mmol) in MeOH (5 mL) and stirred for 30 min Acetic Acid (1 mL) and Cyanoborohydride, polymer supported (2 mmol/gram) (50 mg, 0.674 mmol) were then added and the reaction stirred at r.t. for 2 hrs. Reaction filtered through nylon frit filter and evaporated on rotovap to give the crude product with no purification. The material was taken up in EtOAc and washed with sat. sodium bicarbonate. The organic layer was collected, dried over MgSO4, filtered and evaporated to give the expected product 1-chloro-N-ethyl-6-methoxy-N-methylisoquinolin-3-amine (140 mg, 83% yield) as a dark orange solid. MS: MS m/z 251.15(M++1).

reactant | Hunig's base | 1.347 mmol, 0.235 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloro-6-methoxy-N-methylisoquinolin-3-amine | 0.674 mmol, 150 mg | ClC1=NC(=CC2=CC(=CC=C12)OC)NC | C11H11ClN2O
reactant | acetaldehyde | 0.741 mmol, 0.042 mL | C(C)=O | C2H4O
reactant | Cyanoborohydride | C(#N)[BH3-]
solvent | MeOH | 5 mL | CO | CH4O
solvent | Acetic Acid | 1 mL | C(C)(=O)O | C2H4O2
product | 1-chloro-N-ethyl-6-methoxy-N-methylisoquinolin-3-amine | 140 mg, 83% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)N(C)CC | C13H15ClN2O
